US05795892
96.0 g (0.78 mol) 3-hydroxy-5-methyl-aniline (F. Wessely, H. Eibel, G. Friedrich, "Monatshefte Chem." 83, 24-30, (1952)) in 1.2 l dioxane and 840 ml water was admixed with 420 ml 2N sodium hydroxide solution and with 171 g (0.78 mol) di-tert.butyl-dicarbonate while cooling on ice. It was stirred for 12 h at room temperature, the solvent was removed in a vacuum, it was acidified to pH=2-3 while cooling on ice and extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and the solvent was removed in a vacuum. 174 g (quantitative) N-(tert.butyloxy-carbonyl)-3-hydroxy-5-methyl-aniline was obtained as an oil. MS (m/e)=223.

reactant | 3-hydroxy-5-methyl-aniline | 0.78 mol, 96.0 g | OC=1C=C(N)C=C(C1)C | C7H9NO
reactant | water | 840 ml | O | H2O
reactant | sodium hydroxide | 2N, 420 ml | [OH-].[Na+]
reactant | di-tert.butyl-dicarbonate | 0.78 mol, 171 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 1.2 l | O1CCOCC1 | C4H8O2
product | N-(tert.butyloxy-carbonyl)-3-hydroxy-5-methyl-aniline | 174 g | C(C)(C)(C)OC(=O)NC1=CC(=CC(=C1)C)O | C12H17NO3
